US06274588B1
To a solution of 0.40 g (0.73 mmol) methanesulfonic acid 5-[(3,5-bis-trifluoromethyl-benzyl)-methyl-carbamoyl]-4-phenyl-pyrimidin-2-ylmethyl ester in 5 ml CH2Cl2 added 0.11 ml (1.1 mmol) piperidine were added. The reaction mixture was stirred for 16 hrs. at RT and than poured into H2O and extracted three times with 50 ml CH2Cl2. The combined organic layers were dried (MgSO4), filtered and evaporated. The residue was purified by chromatography (SiO2, CH2Cl2/MeOH 10:1) to give 0.32 g (81%) 4-phenyl-2-piperidin-1-ylmethyl-pyrimidine-5-carboxylic acid (3,5-bis-trifluoromethyl-benzyl)-methyl-amide as a pale yellow waxy solid, MS (ISP): 537.2 (M+H+).

reactant | methanesulfonic acid 5-[(3,5-bis-trifluoromethyl-benzyl)-methyl-carbamoyl]-4-phenyl-pyrimidin-2-ylmethyl ester | 0.73 mmol, 0.40 g | FC(C=1C=C(CN(C(=O)C=2C(=NC(=NC2)COS(=O)(=O)C)C2=CC=CC=C2)C)C=C(C1)C(F)(F)F)(F)F | C23H19F6N3O4S
reactant | piperidine | 1.1 mmol, 0.11 ml | N1CCCCC1 | C5H11N
reactant | H2O | O | H2O
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | 4-phenyl-2-piperidin-1-ylmethyl-pyrimidine-5-carboxylic acid (3,5-bis-trifluoromethyl-benzyl)-methyl-amide | 0.32 g, 81% | FC(C=1C=C(CN(C(=O)C=2C(=NC(=NC2)CN2CCCCC2)C2=CC=CC=C2)C)C=C(C1)C(F)(F)F)(F)F | C27H26F6N4O
